US07241791B2
4-[1-(3-fluorophenyl)-6-hydroxy-1H-indazol-3-yl]benzene-1,3-diol
Prepared according to Method B from 2,2′,4,4′-tetrahydroxybenzophenone (0.400 g, 1.60 mmol), sodium acetate (0.267 g, 3.3 mmol) and 3-fluorophenylhydrazine hydrochloride (0.400 g, 2.5 mmol) to give 0.017 g of product as a pink solid.

reactant | 2,2′,4,4′-tetrahydroxybenzophenone | 1.60 mmol, 0.400 g | OC1=C(C(=O)C2=C(C=C(C=C2)O)O)C=CC(=C1)O | C13H10O5
reactant | sodium acetate | 3.3 mmol, 0.267 g | C(C)(=O)[O-].[Na+]
reactant | 3-fluorophenylhydrazine hydrochloride | 2.5 mmol, 0.400 g | Cl.FC=1C=C(C=CC1)NN
product | 4-[1-(3-fluorophenyl)-6-hydroxy-1H-indazol-3-yl]benzene-1,3-diol | 0.017 g | FC=1C=C(C=CC1)N1N=C(C2=CC=C(C=C12)O)C1=C(C=C(C=C1)O)O | C19H13FN2O3
